US06159962
c) 3-(2-Hydroxyethyl)-5-methyl-6-dimethylcarbamoylthieno[2,3-d]pyrimidin-4-one
8.0 ml (133 mM [sic]) of ethanolamine were added to 35.6 g (114 mM [sic]) of 2-ethoxymethyleneamino-3-carboethoxy-5-methyl-5-dimethylcarbamoylthiophene [sic] in 200 ml of ethanol and refluxed for 2 h. The mixture was then concentrated under reduced pressure. 29.9 g (93%) of dark viscous oil were isolated.

reactant | ethanolamine | 133 mM, 8.0 ml | C(O)CN | C2H7NO
reactant | 2-ethoxymethyleneamino-3-carboethoxy-5-methyl-5-dimethylcarbamoylthiophene | 114 mM, 35.6 g | C(C)OC=NC1SC(C=C1C(=O)OCC)(C(N(C)C)=O)C | C14H22N2O4S
reactant | ethanol | 200 ml | C(C)O | C2H6O
product | 3-(2-Hydroxyethyl)-5-methyl-6-dimethylcarbamoylthieno[2,3-d]pyrimidin-4-one | 29.9 g, 93% | OCCN1C=NC2=C(C1=O)C(=C(S2)C(N(C)C)=O)C | C12H15N3O3S
